US07115611B2
A] In analogy to the procedures described in example 26B] and 26C], [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-amine (example 130C]) was reacted with 3-(1-ethoxycarbonyl-1-methyl-ethoxy)-5-methoxy-benzoic acid (prepared from 3-hydroxy-5-methoxy-benzaldehyde [Journal of Organic Chemistry (1985), 50(13), 2236–40], by reaction with ethyl-bromoisobutyrate followed by oxidation with sodium chlorite in analogy to the procedures described in examples 52A] and 59A]) to give 2-(3-{[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-carbamoyl}-5-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless solid.

reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-amine | C1(CC1)C1=NC(=NC=C1CNC)C1=CC=C(C=C1)C(F)(F)F | C16H16F3N3
reactant | 3-(1-ethoxycarbonyl-1-methyl-ethoxy)-5-methoxy-benzoic acid | C(C)OC(=O)C(C)(OC=1C=C(C(=O)O)C=C(C1)OC)C | C14H18O6
reactant | 3-hydroxy-5-methoxy-benzaldehyde | OC=1C=C(C=O)C=C(C1)OC | C8H8O3
reactant | ethyl-bromoisobutyrate | C(C)CC(C(=O)[O-])(C)Br
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
product | 2-(3-{[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-carbamoyl}-5-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC(=C1)OC)C(N(C)CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O)=O | C30H32F3N3O5
